US06329372B1
2-Chloronicotinoyl-O-(2,6-dichlorobenzyl)-L-tyrosine-methyl ester
A solution of O-(2,6-dichlorobenzyl)-L-tyrosine methyl ester hydrochloride, (1.11 g, 2.84 mmol), 2-chloronicotinic acid (0.45 g, 2.84 mmol), EDC (0.60 g, 3.13 mmol), HOBT (0.46 g, 3.41 mmol) and NMM (0.467 ml, 0.43 g, 4.26 mmol) in DCM (25 ml) was stirred at room temperature for 24 h. The reaction mixture was partitioned between DCM (50 ml) and 10% NaHCO3 solution (30 ml). The organic layer was separated, dried over MgSO4 and the solvent removed under vacuum to give a pale yellow solid that was recrystallized from EtOAc/hexane to give the title compound as an off white solid (1.14 g, 81%), δH (CDCl3) 8.46 (1H, dd, J 2.0, 4.7Hz), 8.05 (1H, dd, J 2.0, 7.6Hz), 7.34 (2H, m), 7.25 (2H, m), 7.11 (2H, m), 6.96 (3H, m), 5.24 (2H, s), 5.06 (1H, m), 3.80 (3H, s) and 3.24 (2H, m).

reactant | O-(2,6-dichlorobenzyl)-L-tyrosine methyl ester hydrochloride | 2.84 mmol, 1.11 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)=O
reactant | 2-chloronicotinic acid | 2.84 mmol, 0.45 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | EDC | 3.13 mmol, 0.60 g
reactant | HOBT | 3.41 mmol, 0.46 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 4.26 mmol, 0.467 ml, 0.43 g | CN1CCOCC1 | C5H11NO
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-Chloronicotinoyl-O-(2,6-dichlorobenzyl)-L-tyrosine-methyl ester | COC([C@@H](NC(C1=C(N=CC=C1)Cl)=O)CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)=O | C23H19Cl3N2O4
